US05244908
Synthesis of 5-[3-[2-(N-methanesulfonylanilino)ethyloxy]propylthio]imidazo[1,2-a]pyridine (Compound 184)
To a solution of 5-[3-[2-(phenylamino)ethyloxy]propylthio]imidazo[1,2-a]pyridine (1.034 g, 3.158 mmoles) and triethylamine (0.88 ml, 6.3 mmoles) in methylene chloride (30 ml) was added methanesulfonyl chloride (0.37 ml, 4.7 mmoles) with stirring under ice-cooling and the mixture was further stirred under ice-cooling for 10 minutes. The reaction mixture was washed with water and the aqueous layer was extracted with methylene chloride (30 ml×3). The methylene chloride layers were combined and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 16 mg of the desired product (brown oily product)

reactant | 5-[3-[2-(phenylamino)ethyloxy]propylthio]imidazo[1,2-a]pyridine | 3.158 mmoles, 1.034 g | C1(=CC=CC=C1)NCCOCCCSC1=CC=CC=2N1C=CN2 | C18H21N3OS
reactant | triethylamine | 6.3 mmoles, 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.7 mmoles, 0.37 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-[2-(N-methanesulfonylanilino)ethyloxy]propylthio]imidazo[1,2-a]pyridine | 16 mg | CS(=O)(=O)N(C1=CC=CC=C1)CCOCCCSC1=CC=CC=2N1C=CN2 | C19H23N3O3S2
